US04404230
4-Chloro-1,2-benzoisothiazol-3(2H)-one-1,1-dioxide
150 ml of ethanol saturated with ammonia were added dropwise over a period of 30 minutes to a solution of 38.2 gm (0.141 mol) of methyl 6-chloro-2-chlorosulfonyl-benzoate in 150 ml of dioxane at 30°-50° C. Subsequently, the reaction mixture was heated for 2 hours at 40° C. and for 2 hours more at 60° C. After cooling, the reaction mixture was evaporated, treated with ether and filtered. The filter cake was boiled with water, filtered while hot, and the filtrate was acidified with hydrochloric acid. Yield: 19.8 gm (64.5% of theory) of 4-chloro-1,2-benzoisothiazol-3(2H)-one-1,1-dioxide.

reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | ammonia | N | H3N
reactant | methyl 6-chloro-2-chlorosulfonyl-benzoate | 0.141 mol, 38.2 gm | ClC1=CC=CC(=C1C(=O)OC)S(=O)(=O)Cl | C8H6Cl2O4S
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-1,2-benzoisothiazol-3(2H)-one-1,1-dioxide | ClC1=CC=CC2=C1C(NS2(=O)=O)=O | C7H4ClNO3S
